US08309580B2
(1) methyl 5-(2,4-difluorophenyl)-2-methyl-3-furoate
An operation similar to that in Example 1 (1) was performed using 2-chloro-2′,4′-difluorophenylacetophenone (19 g) and methyl acetoacetate (11 g) to give the title compound (10.3 g, 41%) as a yellow crystal.

reactant | 2-chloro-2′,4′-difluorophenylacetophenone | 19 g | ClC1=C(C=CC=C1)CC(=O)C1=C(C=C(C=C1)F)F | C14H9ClF2O
reactant | methyl acetoacetate | 11 g | C(CC(=O)C)(=O)OC | C5H8O3
product | methyl 5-(2,4-difluorophenyl)-2-methyl-3-furoate | 10.3 g, 41% | FC1=C(C=CC(=C1)F)C1=CC(=C(O1)C)C(=O)OC | C13H10F2O3
